US09403835B2
Step 1: 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-7,9-dicarboxylic acid 7-tert-butyl ester 9-(9H-fluoren-9-ylmethyl) ester
A mixture of 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-7-carboxylic acid tert-butyl ester (716 mg, 3.14 mmol, WuXy AppTech) and 9-fluorenylmethoxycarbonyl-N-hydroxysuccinimide (1058 mg, 3.14 mmol) was prepared in anhydrous THF (11 mL) and stirred at RT for 2.5 hours. The reaction mixture was concentrated under vacuum to give a yellow oil. After purification by flash chromatography (silica, heptane/EtOAc), the title compound was obtained as a white foam (1.36 g, 93%). 1H NMR (300 MHz, CDCl3) δ 7.77 (d, J=7.5 Hz, 2H), 7.55 (d, J=7.3 Hz, 2H), 7.45-7.37 (m, 2H), 7.36-7.28 (m, 2H), 4.65-4.57 (m, 2H), 4.35-3.49 (m, 9H), 3.17-2.78 (m, 2H), 1.46 (s, 9H). HPLC (max plot) 96.5%; Rt 5.07 min. UPLC/MS: (MS+) 451.4 ([M+H]+).

reactant | 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-7-carboxylic acid tert-butyl ester | 3.14 mmol, 716 mg | C(C)(C)(C)OC(=O)N1CC2COCC(C1)N2 | C11H20N2O3
reactant | 9-fluorenylmethoxycarbonyl-N-hydroxysuccinimide | 3.14 mmol, 1058 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)C1C(=O)N(C(C1)=O)O | C19H15NO5
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 3-oxa-7,9-diaza-bicyclo[3.3.1]nonane-7,9-dicarboxylic acid 7-tert-butyl ester 9-(9H-fluoren-9-ylmethyl) ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C2COCC1CN(C2)C(=O)OC(C)(C)C | C26H30N2O5
